US04280011
Hot Cocoa Flavor Enhancement using 1,2-di[(1'-Ethoxy)Ethoxy]Propane
A one-ounce pack of Carnation Instant Hot Cocoa mix was dissolved in eight ounces of boiling water. A second pack, to which 1.2×10-3 g. of the title acetal was added, was dissolved in a similar manner. The pH was 6.5. The beverage to which the acetal was added had a richer chocolate flavor.

reactant | 1,2,3,4,5,6-hexa[(1'-ethoxy)ethoxy]hexane | C(C)OC(C)OCC(C(C(C(COC(C)OCC)OC(C)OCC)OC(C)OCC)OC(C)OCC)OC(C)OCC | C30H62O12
solvent | water | eight ounces | O | H2O
product | 1,2-di[(1'-Ethoxy)Ethoxy]Propane | C(C)OC(C)OCC(C)OC(C)OCC | C11H24O4
